US06150372
7-(N-PIPERIDYL)-4-HYDROXY-2-(TRIFLUOROMETHYL)QUINAZOLINE
The title compound was prepared from 7-chloro-4-hydroxy-2-trifluoromethylquinazoline (2.0 g, 8.0 mmol), as described in Example 43 (but using piperidine in place of N,N-dimethylamine) to provide the desired compound in a 96% (2.5 g) yield; m.p. 268-271° C.

reactant | 7-chloro-4-hydroxy-2-trifluoromethylquinazoline | 8.0 mmol, 2.0 g | ClC1=CC=C2C(=NC(=NC2=C1)C(F)(F)F)O | C9H4ClF3N2O
reactant | piperidine | N1CCCCC1 | C5H11N
product | 7-(N-PIPERIDYL)-4-HYDROXY-2-(TRIFLUOROMETHYL)QUINAZOLINE | N1(CCCCC1)C1=CC=C2C(=NC(=NC2=C1)C(F)(F)F)O | C14H14F3N3O
